US04154956
The contents, taken out from the glass ampule, were neutralized to about pH 8.0 by adding sodium ethylate-ethanol solution, and the mixture of α-amino-ε-caprolactam hydrochloride, lysine ethyl ester monohydrochloride, and a small amount of lysine ethyl ester dihydrochloride, was obtained. α-amino-ε-caprolactam hydrochloride, lysine ethyl ester dihydrochloride, and sodium chloride were eluted by passing the mixture through the weak cation exchange column, Amberlite IRC-50, freed from water before use, and washing the column with ethanol. Then, 1.18 grs. of lysine ethyl ester monohydrochloride was eluted in the form of the dihydrochloride salt by charging ethanolic hydrochloride into the weak cation exchange column. (yield 40%)

reactant | sodium ethylate ethanol | CC[O-].[Na+].C(C)O
reactant | α-amino-ε-caprolactam hydrochloride | Cl.NC1C(=O)NCCCC1
reactant | lysine ethyl ester monohydrochloride | Cl.C(C)OC([C@@H](N)CCCCN)=O
product | lysine ethyl ester dihydrochloride | yield 40% | Cl.Cl.C(C)OC([C@@H](N)CCCCN)=O | InChI=1S/C8H18N2O2.2ClH/c1-2-12-8(11)7(10)5-3-4-6-9;;/h7H,2-6,9-10H2,1H3;2*1H/t7-;;/m0../s1
